US05820849
a) Bis[2-(benzyloxycarbonylamino)-ethyl]-amine
51.5 g (500 mmol) of diethylenetriamine and 139 ml (1 mol) of triethylamine are dissolved in dichloromethane and mixed at -20° C. with 161 g of benzyl cyanoformate (Fluka) in dichloromethane and then stirred overnight at room temperature. After the reaction is completed, concentration by evaporation is performed during draw-off, the residue is taken up in diethyl ether, the organic phase is washed with sodium carbonate solution and dried with sodium sulfate. The filtrate is mixed with hexane, the precipitate is filtered out and dried.

reactant | diethylenetriamine | 500 mmol, 51.5 g | NCCNCCN | C4H13N3
reactant | triethylamine | 1 mol, 139 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl cyanoformate | 161 g | C(#N)C(=O)OCC1=CC=CC=C1 | C9H7NO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Bis[2-(benzyloxycarbonylamino)-ethyl]-amine | C(C1=CC=CC=C1)OC(=O)NCCNCCNC(=O)OCC1=CC=CC=C1 | C20H25N3O4
